US06201154B1
A solution of 4-chlorophenylacetylene (0.02 mol) and 4-chlorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-chlorostyryl 4-chlorobenzylsulfide. The title compound was obtained in 76% yield following oxidation. 1HNMR (CDC13) δ 4.62 (2H, s), 6.68 (1H, d, JH,H=11.92), 7.18-7.60 (8H aromatic+1H ethylenic).

reactant | 4-chlorophenylacetylene | 0.02 mol | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | 4-chlorobenzyl mercaptan | 0.02 mol | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-chlorostyryl 4-chlorobenzylsulfide | ClC1=CC=C(\C=C/C(C2=CC=C(C=C2)Cl)SC(C2=CC=C(C=C2)Cl)\C=C/C2=CC=C(C=C2)Cl)C=C1 | C30H22Cl4S
